US07910740B2
2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde
The title compound was prepared in analogy to example 1 step e) from 78 mg (0.5 mmol) bromomalonaldehyde, 82 mg (1 mmol) sodium acetate and 131 mg (0.5 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The solvent was evaporated. The reaction was diluted with water and extracted twice with ethyl acetate and twice with methylene chloride/methanol 9/1. The combined organic layers were washed with brine, dried over sodium sulphate, filtered and the solvent was evaporated under reduced pressure. The crude product was stirred diethyl ether to yield 88 mg (56%) of 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde as a yellow solid. MS ISP (m/e): 315.1 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=11.35 (br s, 1H), 9.80 (s, 1H), 8.27 (s, 1H), 7.70 (s, 1H), 7.55 (s, 1H), 7.38 (d, 1H), 7.33 (d, 1H), 7.07 (s, 1H), 3.82 (s, 3H), 2.15 (s, 3H).

reactant | bromomalonaldehyde | 0.5 mmol, 78 mg | BrC(C=O)C=O | C3H3BrO2
reactant | sodium acetate | 1 mmol, 82 mg | C(C)(=O)[O-].[Na+]
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.5 mmol, 131 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde | 88 mg, 56% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)C=O | C15H14N4O2S
